US09290472B2
A solution of 1,2-dibromoethane (0.30 g) in anhydrous DMF (25 ml) was stirred with zinc dust (1.39 g) at 70° C. for 10 minutes then cooled to room temperature and chlorotrimethylsilane was (0.155 g) added. The resultant mixture was stirred at room temperature for 45 minutes. tert-Butyl 3-iodoazetidine-1-carboxylate (5 g) added and stirring was continued at 40° C. for 45 minutes then a solution of 3-fluoroiodobenzene (4.08 g), tris(dibenzylideneacetone)dipalladium(0) (0.325 g) and tris(2-furyl)phosphine (0.165 g) in DMF (15 mL) was added and the mixture was stirred at 70° C. for 3 hours. After cooling, the mixture was diluted with water and ethyl acetate and filtered through celite. The organic layer was washed twice with water, dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 0-10%. The crude product was further purified by chromatography on silica, eluting with a mixture of DCM and cyclohexane with a gradient of 0-100% to give tert-butyl 3-(3-fluorophenyl)azetidine-1-carboxylate (2.52 g) as a colourless oil.

reactant | 1,2-dibromoethane | 0.30 g | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-Butyl 3-iodoazetidine-1-carboxylate | 5 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | 3-fluoroiodobenzene | 4.08 g | FC=1C=C(C=CC1)I | C6H4FI
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 1.39 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.325 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(2-furyl)phosphine | 0.165 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
product | tert-butyl 3-(3-fluorophenyl)azetidine-1-carboxylate | 2.52 g | FC=1C=C(C=CC1)C1CN(C1)C(=O)OC(C)(C)C | C14H18FNO2
